US04483867
(a) 2,2-Dihydroxy-N,N-dimethylacetamide bis-[trans-4-(tert.-butyloxycarbonylaminomethyl)cyclohexanecarboxylate]
Sodium bromide (10.2 g; 0.1 mol) and 1,1-dichloro-N,N-dimethylacetamide (7.8 g; 0.05 mol) was added to dry dimethylformamide (100 ml) and the mixture was stirred for 4 h. Triethylamine (20.7 g; 0.2 mol) and trans-4-(tert.-butyloxycarbonylaminomethyl)cyclohexanecarboxylic acid (25.7 g; 0.1 mol) dissolved in dimethylformamide was added. The mixture was stirred for 84 h at 50° C. The solvent was evaporated and the residue was taken up into diethylether and washed, dried and evaporated. The oily residue was stirred with pentane. Yield 7 g, m.p. 110° C.

reactant | Sodium bromide | 0.1 mol, 10.2 g | [Br-].[Na+]
reactant | Triethylamine | 0.2 mol, 20.7 g | C(C)N(CC)CC | C6H15N
reactant | trans-4-(tert.-butyloxycarbonylaminomethyl)cyclohexanecarboxylic acid | 0.1 mol, 25.7 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,2-Dihydroxy-N,N-dimethylacetamide bis-[trans-4-(tert.-butyloxycarbonylaminomethyl)cyclohexanecarboxylate] | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O.C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O.OC(C(=O)N(C)C)O | InChI=1S/2C13H23NO4.C4H9NO3/c2*1-13(2,3)18-12(17)14-8-9-4-6-10(7-5-9)11(15)16;1-5(2)3(6)4(7)8/h2*9-10H,4-8H2,1-3H3,(H,14,17)(H,15,16);4,7-8H,1-2H3/t2*9-,10-;
